US08232286B2
3-CHLORO-5-HYDRAZINO-PHENOL
2.1 g (14.3 mmol) 3-amino-5-chloro-phenol are dissolved in 20 ml of conc. hydrochloric acid and 20 ml of water and cooled to 0° C. 1.0 g (15.0 mmol) sodium nitrite in 4 ml of water are added. Then a solution of 12.1 g (53.5 mmol) tin(II)-chloride in 16 ml hydrochloric acid is slowly added dropwise at −5° C. It is stirred for 1 hour at 0° C., then adjusted to pH7 with sodium hydrogen carbonate. The precipitate formed is suction filtered and washed with water. The filtrate is extracted with diethyl ether. The organic phase is dried and evaporated to dryness. The residue is extracted with hexane.

reactant | 3-amino-5-chloro-phenol | 14.3 mmol, 2.1 g | NC=1C=C(C=C(C1)Cl)O | C6H6ClNO
reactant | sodium nitrite | 15.0 mmol, 1.0 g | N(=O)[O-].[Na+]
reactant | tin(II)-chloride | 53.5 mmol, 12.1 g | [Sn](Cl)Cl
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | 4 ml | O | H2O
solvent | hydrochloric acid | 16 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 3-CHLORO-5-HYDRAZINO-PHENOL | ClC=1C=C(C=C(C1)NN)O | C6H7ClN2O
